US04666908
1,3-Dimethyl-4-amino-5-cyanopyrazole
Two-hundred and seventy-two g of 1,3-dimethyl-4-nitro-5-cyano-pyrazole was subjected to catalytic hydrogenation in methanol using a Raney nickel catalyst. The catalyst was filtered away and the filtrate concentrated. The product solidified, mp 109°-111° C.

reactant | 1,3-dimethyl-4-nitro-5-cyano-pyrazole | CN1N=C(C(=C1C#N)[N+](=O)[O-])C | C6H6N4O2
solvent | methanol | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | 1,3-Dimethyl-4-amino-5-cyanopyrazole | CN1N=C(C(=C1C#N)N)C | C6H8N4
